US03957833
By utilizing the procedure of Example 8, by reacting p-[(1,5-dimethylhexyl)oxy]-3-chlorobenzoic acid with propargyl bromide, there is obtained 4-[(1,5-dimethylhexyl)oxy]-3-chlorobenzoic acid propargyl ester; nD26 = 1.5155.

reactant | p-[(1,5-dimethylhexyl)oxy]-3-chlorobenzoic acid | CC(CCCC(C)C)OC1=C(C=C(C(=O)O)C=C1)Cl | C15H21ClO3
reactant | propargyl bromide | C(C#C)Br | C3H3Br
product | 4-[(1,5-dimethylhexyl)oxy]-3-chlorobenzoic acid propargyl ester | C(C#C)OC(C1=CC(=C(C=C1)OC(CCCC(C)C)C)Cl)=O | C18H23ClO3
